US06369110B1
Thionyl chloride (5.6 ml, 77 mmol) was added to a solution of 5-phenyl-5-(2-propyl)pentanoic acid (8.35 g, 37.9 mmol) in chloroform (50 ml), followed by heating under reflux for 3.5 hours. Then, thionyl chloride (3.0 ml, 41 mmol) was added thereto and the resulting mixture was heated under reflux for 1 hour. The reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in 1,2-dichloroethane (20 ml). The resulting solution was added dropwise to a suspension of aluminum chloride (10.1 g, 75.8 mmol) in 1,2-dichloroethane (100 ml) which had been cooled to 0° C., and the resulting mixture was stirred at 0° C. for 10 minutes. The reaction mixture was poured into a cold 1N hydrochloric acid and extracted twice with ethyl acetate, and the extract solution was washed twice with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/10) to obtain 6.83 g of 9-(2-propyl)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one.

reactant | Thionyl chloride | 77 mmol, 5.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-phenyl-5-(2-propyl)pentanoic acid | 37.9 mmol, 8.35 g | C1(=CC=CC=C1)C(CCCC(=O)O)C(C)C | C14H20O2
reactant | thionyl chloride | 41 mmol, 3.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 75.8 mmol, 10.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 9-(2-propyl)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 6.83 g | CC(C)C1CCCC(C2=C1C=CC=C2)=O | C14H18O
